US08466282B2
4-fluoro-1-(4-methoxybutyl)-N-(2-methylpropyl)-N-{(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl}-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-{{{4-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (75 mg) was dissolved in 3M hydrogen chloride-ethyl acetate (2 ml), and the mixture was stirred at room temperature for 30 min and concentrated to give the object product (67 mg).

reactant | tert-Butyl (3S,5R)-3-{{{4-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 75 mg | FC1=CC=CC=2N(C(=NC21)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C)CCCCOC | C32H48FN5O6
reactant | hydrogen chloride-ethyl acetate | 3M, 2 ml | C(C)(=O)OCC.Cl
product | 4-fluoro-1-(4-methoxybutyl)-N-(2-methylpropyl)-N-{(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl}-1H-benzimidazole-2-carboxamide dihydrochloride | 67 mg | Cl.Cl.FC1=CC=CC=2N(C(=NC21)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C)CCCCOC | InChI=1S/C27H40FN5O4.2ClH/c1-19(2)18-33(21-15-20(16-29-17-21)26(34)31-10-13-37-14-11-31)27(35)25-30-24-22(28)7-6-8-23(24)32(25)9-4-5-12-36-3;;/h6-8,19-21,29H,4-5,9-18H2,1-3H3;2*1H/t20-,21+;;/m1../s1
